US04263037
(b) 5-Cyano-2,3-dihydro-3,3-dimethylbenzofuran (I)
5-Bromo-2,3-dihydro-3,3-dimethylbenzofuran (15 g, 0.066 mole) was heated under reflux with cuprous cyanide (7.2 g. 0.08 mole) in dimethyl formamide (15 ml) as in Example 2. Work up yielded, after recrystallisation from petroleum ether (bp 60°-80° C.) with charcoaling, 5.7 g of product, mp 72°-75° C.

reactant | 5-Bromo-2,3-dihydro-3,3-dimethylbenzofuran | 0.066 mole, 15 g | BrC=1C=CC2=C(C(CO2)(C)C)C1 | C10H11BrO
reactant | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
product | 5-Cyano-2,3-dihydro-3,3-dimethylbenzofuran | C(#N)C=1C=CC2=C(C(CO2)(C)C)C1 | C11H11NO
